US07378525B2
4-(4-o-Tolylcarbamoyl-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid ethylamide (F-10)
The title compound was prepared according to the general procedure in Scheme 11, substituting 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid o-tolylamide for 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide, and ethyl isocyanate for ethyl chloroformate. Wt.: 26 mg (47%). 1H NMR (300 MHz, CDCl3) δ 8.65 (d, 1H), 8.46 (d, 1H), 8.32 (d, 1H), 8.03 (d, 1H), 7.77 (d, 1H), 7.70 (m, 2H), 7.64 (s, 1H), 7.30 (m, 2H), 7.20 (m, 2H), 4.81 (d, 1H), 4.28 (m, 1H), 3.66 (m, 2H), 3.27 (m, 1H), 3.17 (m, 2H), 2.71 (m, 2H), 2.32 (s, 3H), 1.65 (m, 1H), 1.25 (m, 2H), 1.07 (t, 3H); LC/MS m/z 493 (M−H)−.

reactant | 4-(piperidin-4-ylsulfamoyl)-naphthalene-1-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=CC=C(C2=CC=CC=C12)S(NC1CCNCC1)(=O)=O | C22H29N3O3S
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 4-(4-o-Tolylcarbamoyl-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid ethylamide | C(C)NC(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)C(NC1=C(C=CC=C1)C)=O | C26H30N4O4S
